US06821980B1
Starting from 5-(3-ethoxy-4-iodo-5-methoxymethoxy-benzyl)-pyrimidine-2,4-diamine (2.11 g; 4,9 mmol) and N-(5-bromo-2-methyl-phenyl)-2,2,2-trifluoro-acetamide (prepared from 5-bromo-2-methyl-aniline analogously to example 41) (2.3 g; 8.17 mmol), 0.963 g (30%) 3′-amino-4-(2,4-diamino-pyrimidin-5-ylmethyl)-6-ethoxy-4′-methyl-biphenyl-2-ol is obtained as a beige powder after Suzuki coupling (in situ generation of R2—B(OH)2) and splitting off of the protective group under acid conditions.

reactant | 5-(3-ethoxy-4-iodo-5-methoxymethoxy-benzyl)-pyrimidine-2,4-diamine | 4,9 mmol, 2.11 g | C(C)OC=1C=C(CC=2C(=NC(=NC2)N)N)C=C(C1I)OCOC | C15H19IN4O3
reactant | N-(5-bromo-2-methyl-phenyl)-2,2,2-trifluoro-acetamide | BrC=1C=CC(=C(C1)NC(C(F)(F)F)=O)C | C9H7BrF3NO
reactant | 5-bromo-2-methyl-aniline | BrC=1C=CC(=C(N)C1)C | C7H8BrN
product | 3′-amino-4-(2,4-diamino-pyrimidin-5-ylmethyl)-6-ethoxy-4′-methyl-biphenyl-2-ol | 0.963 g, 30% | NC=1C=C(C=CC1C)C=1C(=CC(=CC1OCC)CC=1C(=NC(=NC1)N)N)O | C20H23N5O2
